US07091371B2
2-Amino-2-methyl-4-(2-trifluoromethylphenyl)butyronitrile
1.5 g of 4-(2-trifluoromethylphenyl)butan-2-one, 0.41 g of sodium cyanide and 0.56 g of ammonium chloride are dissolved in 77 ml of a 2M solution of ammonia in ethanol and the mixture is stirred at ambient temperature for 7 h. The mixture is subsequently concentrated under reduced pressure and the residue is redissolved in ethyl acetate and washed with water and three times with saturated sodium chloride solution. The organic phase is separated, dried with magnesium sulfate and evaporated under reduced pressure. After purifying the residue by flash chromatography, the title compound is thus obtained.

reactant | 4-(2-trifluoromethylphenyl)butan-2-one | 1.5 g | FC(C1=C(C=CC=C1)CCC(C)=O)(F)F | C11H11F3O
reactant | sodium cyanide | 0.41 g | [C-]#N.[Na+]
reactant | ammonium chloride | 0.56 g | [Cl-].[NH4+]
reactant | ethanol | C(C)O | C2H6O
solvent | ammonia | N | H3N
product | 2-Amino-2-methyl-4-(2-trifluoromethylphenyl)butyronitrile | NC(C#N)(CCC1=C(C=CC=C1)C(F)(F)F)C | C12H13F3N2
